US20010023250A1
A mixture of cis 4-acetoxy-cyclohexanol (632 mg, 4 mmole) and NaH (60%, 220 mg, 5.5 mmole) in 15 mL of anhydrous THF is refluxed for 0.5 hour before addition of 2-chloro-6,7-dimethoxyquinoxaline (674 mg, 3 mmole). The resulting mixture is continued to be refluxed for two hours. The residue after filtration and concentration is chromatographed on silica gel (ether) to provide acetic acid cis-4-(6,7-dimethoxyquinoxalin-2-yloxy)-cyclohexyl ester (m.p. 150-152° C.). Anal. Calcd. for C18H22N2O5: C, 62.42: H, 6.40; N, 8.09. Found: C, 62.39; H. 6.55; N, 7.82 and cis-4-(6,7-dimethoxyquinoxalin-2-yloxy)-cyclohexanol (m.p. 148-150° C.). Anal. Calcd. for C16H20N2O4: C. 63.14; H, 6.62; N, 9.20; Found: C, 62.80; H, 6.76; N, 8.67.

reactant | cis 4-acetoxy-cyclohexanol | 4 mmole, 632 mg | C(C)(=O)O[C@H]1CC[C@H](CC1)O | C8H14O3
reactant | NaH | 5.5 mmole, 220 mg | [H-].[Na+]
reactant | 2-chloro-6,7-dimethoxyquinoxaline | 3 mmole, 674 mg | ClC1=NC2=CC(=C(C=C2N=C1)OC)OC | C10H9ClN2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | acetic acid cis-4-(6,7-dimethoxyquinoxalin-2-yloxy)-cyclohexyl ester | COC=1C=C2N=CC(=NC2=CC1OC)O[C@H]1CC[C@H](CC1)OC(C)=O | C18H22N2O5
